* /home/cmatar/Technikum/Bachelorarbeit/circuit/circuit.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Mit 16 Nov 2016 20:17:52 CET

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
CH1  DIVIDER_0 GND BNC		
CH2  DIVIDER_1 GND BNC		
SW1  GND RESET_RTC RESET		
R15  +3.3V RESET_RTC 10k		
C6  RESET_RTC GND 100n		
R2  PWM_1 Net-_C2-Pad1_ 33k		
C2  Net-_C2-Pad1_ GND 470n		
C4  +5V GND 100n		
R1  PWM_0 Net-_C1-Pad1_ 33k		
C1  Net-_C1-Pad1_ GND 470n		
C3  +5V GND 100n		
USB1  Net-_R16-Pad1_ Net-_R22-Pad2_ Net-_R19-Pad2_ Net-_C11-Pad2_ GND USB		
R20  DIVIDER_0 Net-_D5-Pad1_ 4k7		
D5  Net-_D5-Pad1_ GND LED		
D7  GND Net-_D5-Pad1_ LED		
R21  DIVIDER_1 Net-_D6-Pad1_ 4k7		
R26  GND Net-_D6-Pad1_ 100		
D6  Net-_D6-Pad1_ GND LED		
D8  GND Net-_D6-Pad1_ LED		
R25  GND Net-_D5-Pad1_ 100		
PCF2127AT1  Net-_LPC1343FBD1-Pad15_ GND GND Net-_LPC1343FBD1-Pad16_ Net-_C13-Pad2_ ? Net-_PCF2127AT1-Pad7_ GND ? ? ? ? ? Net-_PCF2127AT1-Pad14_ Net-_PCF2127AT1-Pad15_ RESET_RTC RTC_INT_11 Net-_C13-Pad2_ GND Net-_C14-Pad2_ PFC2127AT		
SWD1  +3.3V +3.3V ? GND ? GND Net-_LPC1343FBD1-Pad39_ GND SWC_29 GND Net-_R9-Pad1_ GND MOSI0_28 GND ? GND Net-_R8-Pad1_ GND +5V_JLINK GND BH20S		
R7  +3.3V Net-_LPC1343FBD1-Pad39_ 10k		
R8  Net-_R8-Pad1_ GND 10k		
R9  Net-_R9-Pad1_ GND 10k		
R10  SWC_29 GND 10k		
R22  Net-_C8-Pad2_ Net-_R22-Pad2_ 33k		
R23  Net-_R19-Pad2_ Net-_C9-Pad2_ 33k		
C8  GND Net-_C8-Pad2_ 100n		
C9  GND Net-_C9-Pad2_ 100n		
R19  Net-_D2-Pad2_ Net-_R19-Pad2_ 1.5k		
R17  GND Net-_D2-Pad1_ 560		
jfet1  Net-_LPC1343FBD1-Pad22_ +3.3V Net-_D2-Pad2_ DTA114Y		
D2  Net-_D2-Pad1_ Net-_D2-Pad2_ LED		
C11  GND Net-_C11-Pad2_ 10n		
R16  Net-_R16-Pad1_ Net-_LPC1343FBD1-Pad14_ 1k		
R18  Net-_R16-Pad1_ +3.3V 10k		
R29  Net-_D9-Pad1_ GND 560		
D9  Net-_D9-Pad1_ +3.3V POWER		
C12  +3.3V GND 100n		
R27  +3.3V Net-_LM1-Pad3_ 240		
R24  Net-_LM1-Pad3_ GND 390		
LM1  Net-_C10-Pad1_ +3.3V Net-_LM1-Pad3_ LM1117		
D3  Net-_C10-Pad1_ +3.3V LED		
D4  Net-_C10-Pad1_ +5V_JLINK LED		
C7  Net-_C7-Pad1_ GND 100n		
R28  Net-_PCF2127AT1-Pad7_ +3.3V 10k		
C14  GND Net-_C14-Pad2_ 100n		
C15  GND Net-_C14-Pad2_ 6.8n		
R30  Net-_C14-Pad2_ +3.3V 330		
C13  GND Net-_C13-Pad2_ 100n		
R31  RTC_INT_11 +3.3V 10k		
R32  RESET_RTC +3.3V 10k		
C5  GND +3.3V 100n		
LPC1343FBD1  Net-_LPC1343FBD1-Pad1_ Net-_LPC1343FBD1-Pad2_ RESET_RTC Net-_LPC1343FBD1-Pad4_ GND Net-_LPC1343FBD1-Pad6_ Net-_LPC1343FBD1-Pad7_ Net-_C7-Pad1_ Net-_LPC1343FBD1-Pad9_ Net-_LPC1343FBD1-Pad10_ RTC_INT_11 Net-_LPC1343FBD1-Pad12_ ? Net-_LPC1343FBD1-Pad14_ Net-_LPC1343FBD1-Pad15_ Net-_LPC1343FBD1-Pad16_ PWM_0 ? Net-_C8-Pad2_ Net-_C9-Pad2_ ? Net-_LPC1343FBD1-Pad22_ ? ? Net-_LPC1343FBD1-Pad25_ Net-_LPC1343FBD1-Pad26_ Net-_LPC1343FBD1-Pad27_ MOSI0_28 SWC_29 PWM_1 Net-_LPC1343FBD1-Pad31_ Net-_LPC1343FBD1-Pad32_ TRIGGER_1 Net-_LPC1343FBD1-Pad34_ Net-_LPC1343FBD1-Pad35_ Net-_LPC1343FBD1-Pad36_ Net-_LPC1343FBD1-Pad37_ Net-_LPC1343FBD1-Pad38_ Net-_LPC1343FBD1-Pad39_ Net-_LPC1343FBD1-Pad40_ GND Net-_LPC1343FBD1-Pad42_ Net-_LPC1343FBD1-Pad43_ +3.3V TRIGGER_0 Net-_LPC1343FBD1-Pad46_ Net-_LPC1343FBD1-Pad47_ Net-_LPC1343FBD1-Pad48_ LPC1343FBD48		
U2  Net-_R5-Pad2_ Net-_R6-Pad2_ GND Net-_R12-Pad2_ +5V MAX9012		
U1  Net-_R3-Pad2_ Net-_R4-Pad2_ GND Net-_R11-Pad2_ +5V MAX9012		
R11  +3.3V Net-_R11-Pad2_ 820		
R13  TRIGGER_0 Net-_R11-Pad2_ 120		
R12  +3.3V Net-_R12-Pad2_ 820		
R14  TRIGGER_1 Net-_R12-Pad2_ 120		
X1  Net-_LPC1343FBD1-Pad37_ Net-_LPC1343FBD1-Pad38_ Net-_LPC1343FBD1-Pad40_ Net-_LPC1343FBD1-Pad42_ Net-_LPC1343FBD1-Pad43_ Net-_LPC1343FBD1-Pad46_ Net-_LPC1343FBD1-Pad47_ Net-_LPC1343FBD1-Pad48_ PIN_OUT_1		
X6  Net-_PCF2127AT1-Pad14_ Net-_PCF2127AT1-Pad15_ Net-_C13-Pad2_ PIN_OUT_6		
X3  Net-_LPC1343FBD1-Pad25_ ? Net-_LPC1343FBD1-Pad26_ Net-_LPC1343FBD1-Pad27_ PWM_1 Net-_LPC1343FBD1-Pad31_ Net-_LPC1343FBD1-Pad32_ Net-_LPC1343FBD1-Pad34_ Net-_LPC1343FBD1-Pad35_ Net-_LPC1343FBD1-Pad36_ PIN_OUT_3		
X2  Net-_LPC1343FBD1-Pad1_ Net-_LPC1343FBD1-Pad2_ Net-_LPC1343FBD1-Pad4_ PIN_OUT_2		
X4  Net-_LPC1343FBD1-Pad6_ Net-_LPC1343FBD1-Pad7_ Net-_LPC1343FBD1-Pad9_ Net-_LPC1343FBD1-Pad10_ Net-_LPC1343FBD1-Pad12_ PIN_OUT_4		
X5  PWM_0 PWM_0		
D1  Net-_C7-Pad1_ +3.3V LED		
C10  Net-_C10-Pad1_ GND 10u		
R6  DIVIDER_1 Net-_R6-Pad2_ 4k7		
R5  Net-_C2-Pad1_ Net-_R5-Pad2_ 4k7		
R4  DIVIDER_0 Net-_R4-Pad2_ 4k7		
R3  Net-_C1-Pad1_ Net-_R3-Pad2_ 4k7		
U3  Net-_D5-Pad1_ GND Net-_D6-Pad1_ MJ4435-R		

.end
